US08748644B2
Synthesis of (1,3-Dimethylcyclopentadienyl)(ethylcyclopentadienyl)ruthenium
In an argon atmosphere, 3.0 mL of 1,3-dimethylcyclopentadiene and 3.0 mL of ethylcyclopentadiene were added to a solution prepared by dissolving 0.51 g of ruthenium chloride hydrate in 40 mL of ethanol. Thereafter, 4.1 g of a zinc powder was added thereto. The mixture was stirred at 70° C. for 3 hours. The solvent was distilled off under vacuum, and hexane was added to the residue. The insoluble matter was removed by filtration, and the solvent was thereafter distilled off under vacuum. The resultant residue was distilled and then separated with an alumina column. Thus, 0.24 g of a yellow liquid was obtained (yield, 43%).

reactant | 1,3-dimethylcyclopentadiene | 3.0 mL | CC1=CC(=CC1)C | C7H10
reactant | ethylcyclopentadiene | 3.0 mL | C(C)C1=CC=CC1 | C7H10
reactant | ruthenium chloride hydrate | 0.51 g | O.[Ru](Cl)(Cl)Cl
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | zinc | 4.1 g | [Zn] | Zn
product | (1,3-Dimethylcyclopentadienyl)(ethylcyclopentadienyl)ruthenium | 0.24 g | CC1(C=C(C=C1)C)[Ru]C1(C=CC=C1)CC | InChI=1S/2C7H9.Ru/c1-6-3-4-7(2)5-6;1-2-7-5-3-4-6-7;/h3-5H,1-2H3;3-6H,2H2,1H3;
